US06541638B2
To 131 mg (0.23 mmol) (2R,4R)-N-Benzyl-3-[4-(4-methoxy-benzylsulfanyl)-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-N-methyl-propionamide in 8 ml TFA were added 0.37 ml (2.3 mmol, 10 eq) triethyl silane at 0° C. and the solution was stirred for 60 min at 80° C., evaporated, twice suspended in toluene and evaporated. The crude product was purified with prep. HPLC using a RPC18 column yielding 17 mg (2R,4R)-N-Benzyl-3-[4-mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-N-methyl-propionamide as light yellow gum, MS: 469 (MH+).

reactant | (2R,4R)-N-Benzyl-3-[4-(4-methoxy-benzylsulfanyl)-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-N-methyl-propionamide | 0.23 mmol, 131 mg | C(C1=CC=CC=C1)N(C(CC[C@H]1N(C[C@@H](C1)SCC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)C | C33H36N2O4S2
reactant | triethyl silane | 2.3 mmol, 0.37 ml, 10 eq | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2R,4R)-N-Benzyl-3-[4-mercapto-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-N-methyl-propionamide | 17 mg | C(C1=CC=CC=C1)N(C(CC[C@H]1N(C[C@@H](C1)S)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)C | C25H28N2O3S2
